US07893058B2
Step 1: (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[3-fluoro-4-(4-methyl-piperazin-1-yl)-phenyl]-amine
Following the general procedure for amine displacement using 5,8-dibromoimidazo[1,2-a]pyrazine (0.50 g, 1.81 mmol), 3-fluoro-4-(4-methyl-piperazin-1-yl)-phenylamine (0.45 g, 2.17 mmol) and DIPEA (0.47 mL, 2.72 mmol) in iPrOH (5 mL). The crude material is purified by silica gel column chromatography eluting with 90:10 DCM:MeOH to give the title compound (35 mg, 5%).

reactant | 5,8-dibromoimidazo[1,2-a]pyrazine | 1.81 mmol, 0.50 g | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
reactant | 3-fluoro-4-(4-methyl-piperazin-1-yl)-phenylamine | 2.17 mmol, 0.45 g | FC=1C=C(C=CC1N1CCN(CC1)C)N | C11H16FN3
reactant | DIPEA | 2.72 mmol, 0.47 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | iPrOH | 5 mL | CC(C)O | C3H8O
product | (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[3-fluoro-4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 35 mg, 5% | BrC1=CN=C(C=2N1C=CN2)NC2=CC(=C(C=C2)N2CCN(CC2)C)F | C17H18BrFN6
